US09359277B2
To a solution of 3-(trifluoroacetyl)camphor (45 mg, 0.19 mmol) in benzene (10 mL) were added K2CO3 (82 mg, 0.59 mmol), 18-crown-6 (13 mg, 0.05 mmol), and paraformaldehyde (200 mg, 6.59 mmol). The suspension was heated to 80° C. for 2 h and then heated to reflux (oil bath=90° C.) for 4 h. The mixture was allowed to cool to room temperature, saturated aqueousNH4Cl (10 mL) was added, and the resulting mixture was extracted with EtOAc (3×10 mL). The organics were dried over Na2SO4 and concentrated under reduced pressure. SiO2 flash chromatography (5% Et2O in hexanes) afforded the α-methylene camphor as a pale yellow oil (32 mg) in 95% yield.

reactant | 3-(trifluoroacetyl)camphor | 0.19 mmol, 45 mg | FC(C(=O)C1C(C2(CCC1C2(C)C)C)=O)(F)F | C12H15F3O2
reactant | K2CO3 | 0.59 mmol, 82 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 0.05 mmol, 13 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | paraformaldehyde | 6.59 mmol, 200 mg | C=O | CH2O
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | α-methylene camphor | 32 mg, 95% yield | CC1(C2CCC1(C(=O)C2=C)C)C | C11H16O
